US06812235B2
To a solution of bebzyl-4-hydroxybenzoate(1.50 g), 3-methyl-1-butanol (0.86 ml) and triphenylphosphine(3.45 g) in THF(55 ml) was added dropwise a solution of diethylazodicarboxylate(2.07 ml) in THF (20 ml) at 0° C., then the mixture was stirred for an hour at ambient temperature. The reaction mixture was partitioned between a mixture of ethyl acetate and 20% aqueous sodium carbonate solution. The separated organic layer was washed with brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by a silica gel column chromatography eluting with a mixture of ethyl acetate and n-hexane (1:4) to give benzyl-4-isoamyloxybenzoate (1.57 g, 80.1%).

reactant | 3-methyl-1-butanol | 0.86 ml | CC(CCO)C | C5H12O
reactant | triphenylphosphine | 3.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 2.07 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 55 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | benzyl-4-isoamyloxybenzoate | 1.57 g, 80.1% | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)OCCC(C)C)=O | C19H22O3
